US06872827B2
To a solution of benzyl-(4-hydroxy-butyl)-carbamic acid tert butyl ester (6.06 g 21.7 mmol) in acetonitrile (25 mL), carbonyldiimidazole (3.52 g 21.7 mmol) and iodomethane (6.8 mL 109 mmole) were added. The reaction mixture became lukewarm and was stirred for an hour at room temperature followed by another 2 h under reflux. The reaction mixture was allowed to cool to room temperature and additional iodomethane (6.8 mL) was added and the reaction was refluxed for an additional hour. The reaction mixture was allowed to cool to room temperature and was diluted with diethyl ether (150 mL) resulting in a white suspension that was washed with of water (100 mL). The organic layer was washed successively with, 1N HCl (50 mL), saturated NaHCO3 (50 mL), 5% Na2S2O3 (50 mL), and brine. The organic layer was dried on Na2SO4 and the resulting yellow oil crude was purified by flash chromatography using a 95:5 mixture of ethyl acetate-petroleum ether as eluent to give N-benzyl-N-(t-butoxycarbonyl)-4-amino-1-iodobutane (4.49 g, 53%) as colorless, viscous oil. 1H NMR (CDCl3) δ 7.24-7.35 (m, 5H); 4.42 (bs, 2H); 3.19 (bs, 4H); 1.76 (bs, 2H); 1.6 (bs, 2H); 1.51 (s, 9H).

reactant | benzyl-(4-hydroxy-butyl)-carbamic acid tert butyl ester | 21.7 mmol, 6.06 g | C(C)(C)(C)OC(N(CCCCO)CC1=CC=CC=C1)=O | C16H25NO3
reactant | carbonyldiimidazole | 21.7 mmol, 3.52 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | iodomethane | 109 mmole, 6.8 mL | IC | CH3I
reactant | iodomethane | 6.8 mL | IC | CH3I
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
solvent | diethyl ether | 150 mL | C(C)OCC | C4H10O
product | N-benzyl-N-(t-butoxycarbonyl)-4-amino-1-iodobutane | 4.49 g, 53% | C(C1=CC=CC=C1)N(CCCCI)C(=O)OC(C)(C)C | C16H24INO2
